US06559089B1
Into a 3000 ml flask, under nitrogen, was placed a solution of dichlorodimethyl silane (80.2 ml, 0.64 mol.) in 1000 ml of dry hexane, and the solution was Dre-cooled to −78° C. A suspension of fluorenyllithium (53.13 g, 0.32 mol.) in 2000 ml of hexane was slowly added via a cannula and the reaction mixture was stirred for an additional one hour at this temperature. The resulting mixture was gradually allowed to warm to room temperature and stirred for another 16 hours. The reaction mixture was then filtered under nitrogen, through a Celite plug (250 ml). The filtrate was concentrated and kept at −20° C. overnight. The resulting light-green crystals were recrystallised from hexane at −20° C. to afford 75.09 g (90.68 % yield) of chlorodimethyl-(9-fluorenyl)silane.

reactant | dichlorodimethyl silane | 0.64 mol, 80.2 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | fluorenyllithium | 0.32 mol, 53.13 g | C1(=CC=CC=2C3=CC=CC=C3CC12)[Li]
solvent | hexane | 1000 ml | CCCCCC | C6H14
solvent | hexane | 2000 ml | CCCCCC | C6H14
product | chlorodimethyl-(9-fluorenyl)silane | 75.09 g, 90.68 % yield | Cl[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C)C | C15H15ClSi
